US07268231B2
A suspension of (5-[1,5] Naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-thiazol-2-yl)-carbamic acid tert-butyl ester (20.0 mg, 0.056 mmol) in xylenes (1 mL) in a microwave tube was heated to give a light yellow solution and then heated to 170° C. with microwave for 1 hr. The reaction mixture was then cooled to r.t. and diluted with toluene. The solid was collected by filtration and washed with toluene, acetone and ether to give 2-Amino-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one as a light yellow solid: 5.6 mg (39.2%), HR-ES (+) m/e calcd. for C12H8N4OS: (M+H)+ 256.0419. Found: 256.0422.

reactant | (5-[1,5] Naphthyridin-2-ylmethylene-4-oxo-4,5-dihydro-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.056 mmol, 20.0 mg | C(C)(C)(C)OC(NC=1SC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1)=O | C17H16N4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Amino-5-[1,5]naphthyridin-2-ylmethylene-thiazol-4-one | NC=1SC(C(N1)=O)=CC1=NC2=CC=CN=C2C=C1 | C12H8N4OS
